US04916137
7-Phenylpyrazolo[1,5-a]pyrimidine-3-carboxamide
A mixture of 4.0 g of 7-phenylpyrazolo[1,5-a]pyrimidine-3-carbonitrile (prepared as described in Example 7 of U.S. Pat. No. 4,236,005) and 40 ml of concentrated sulfuric acid was stirred at room temperature for 16 hours. The solution was then carefully poured into ice with stirring and the mixture was carefully made just basic with concentrated ammonium hydroxide. The solid was collected by filtration and recrystallized from dichloromethane to give pale yellow needles m.p. 236°-238.5° C.

reactant | 7-phenylpyrazolo[1,5-a]pyrimidine-3-carbonitrile | 4.0 g | C1(=CC=CC=C1)C1=CC=NC=2N1N=CC2C#N | C13H8N4
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
product | 7-Phenylpyrazolo[1,5-a]pyrimidine-3-carboxamide | C1(=CC=CC=C1)C1=CC=NC=2N1N=CC2C(=O)N | C13H10N4O
